US04270948
Preparation of Sodium α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionate
32.6 g of α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid was dissolved in 30 ml of ethanol, and an aqueous solution of 4.0 g of sodium hydroxide in 40 ml of water was added. The mixture was maintained at 70° to 75° C. for 1 hour. Then, ethanol and water were removed from the reaction product at reduced pressure. The residue was heated at 90° C. for 4 hours to afford 34.1 g (yield: 98%) of the final product as a white solid.

reactant | α-[4-(4-trifluoromethylphenoxy)phenoxy]propionic acid | 32.6 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)O)C)C=C2)C=C1)(F)F | C16H13F3O4
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | Sodium α-[4-(4-Trifluoromethylphenoxy)phenoxy]propionate | 34.1 g, yield: 98% | FC(C1=CC=C(OC2=CC=C(OC(C(=O)[O-])C)C=C2)C=C1)(F)F.[Na+] | InChI=1S/C16H13F3O4.Na/c1-10(15(20)21)22-12-6-8-14(9-7-12)23-13-4-2-11(3-5-13)16(17,18)19;/h2-10H,1H3,(H,20,21);/q;+1/p-1
